US09024018B2
3-(Methoxymethyl)-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carbothioamide
3-(Methoxymethyl)-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carboxamide (0.100 g, 0.446 mmol), phosphorus pentasulfide (27 mg; 0.06 mmol), and hexamethyldisiloxane (87 mg; 0.114 mL; 0.535 mmol) were stirred in DCM under reflux for 24 hours. After 24 hours, a second portion of P2S5 (27 mg; 0.06 mmol) was added, and reflux continued for a further 24 hours, after which time the reaction mixture was filtered, and the precipitate was washed with EtOAc, Et2O and air dried to yield the title compound as an orange solid (67% yield). 1H NMR (400 MHz, d6-DMSO) δ ppm 9.95 (1H, bs), 9.47 (1H, bs), 8.85 (1H, s), 5.74 (2H, s) and 3.40 (3H, s).

reactant | 3-(Methoxymethyl)-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carboxamide | 0.446 mmol, 0.100 g | COCN1N=NC=2N(C1=O)C=NC2C(=O)N | C7H8N6O3
reactant | phosphorus pentasulfide | 0.06 mmol, 27 mg | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | hexamethyldisiloxane | 0.535 mmol, 0.114 mL, 87 mg | C[Si](O[Si](C)(C)C)(C)C | C6H18OSi2
reactant | P2S5 | 0.06 mmol, 27 mg | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 3-(Methoxymethyl)-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carbothioamide | 67% yield | COCN1N=NC=2N(C1=O)C=NC2C(N)=S | C7H8N6O2S
